US06436915B1
Synthesis of 3,5-Diamino-4-[(o-tolyl)hydrazono]pyrazole
This compound was prepared using 92 mg (0.5 mmol) of 2-(o-tolylhydrazono)-malononitrile, which was derived from 4-toluidine (107 μL, 1.0 mmol) and malononitrile (1.5 mmol) as described in Example 8, and hydrazine hydrate. Very little solid had formed after heating the reaction at 75° C. for 1 hr, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to room temperature and the solvent was evaporated. The residue was dissolved in ethyl acetate and then precipitated by the addition of hexanes. The resulting solid was isolated by filtration and dried to yield 43 mg (40%) of the title compound as a yellow solid.

reactant | 2-(o-tolylhydrazono)-malononitrile | 0.5 mmol, 92 mg | C1(=C(C=CC=C1)NN=C(C#N)C#N)C | C10H8N4
reactant | 4-toluidine | 1.0 mmol, 107 μL | NC1=CC=C(C=C1)C | C7H9N
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 3,5-Diamino-4-[(o-tolyl)hydrazono]pyrazole | 43 mg, 40% | NC1=NN=C(C1=NNC1=C(C=CC=C1)C)N | C10H12N6
